US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and pyridine-2-carbonyl chloride hydrochloride (0.64 g, 3.60 mmol) in THF (50 mL), was added TEA (1.46 mL, 10.50 mmol) at room temperature under nitrogen. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (100 mL). The organic layer was washed with water (100 mL), brine (100 mL), dried (MgSO4) and then concentrated. The crude product was purified by column chromatography (0-5% MeOH/CH2Cl2). The product fractions were combined, concentrated and dried in vacuo to give pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.58 g, 49% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 2.17 min (99.35%); mp: 212-214° C.; 1H NMR (DMSO-d6) δ 2.02-2.06 (m, 1H, CHH), 2.43-2.62 (m, 2H, CHH, CHH), 2.81-2.96 (m, 1H, CHH), 4.66 (d, J=6.4 Hz, 2H, CH2), 5.14 (dd, J=5.3, 12.6 Hz, 1H, CH), 7.61-7.66 (m, 1H, Ar), 7.80-7.90 (m, 3H, Ar), 7.97-8.07 (m, 2H, Ar), 8.67-8.69 (m, 1H, Ar), 9.64 (t, J=6.4 Hz, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.92, 42.37, 48.98, 122.07, 122.11, 123.52, 126.73, 129.79, 131.57, 133.58, 137.86, 147.49, 148.54, 149.71, 164.29, 166.99, 167.14, 169.81, 172.72; Anal Calcd for C20H16N4O5+0.05H2O: C, 61.08; H, 4.13; N, 14.25. Found: C, 60.81; H, 3.82; N, 14.15.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | pyridine-2-carbonyl chloride hydrochloride | 3.60 mmol, 0.64 g | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.58 g, 49% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1=NC=CC=C1)=O)=O | C20H16N4O5
